US05582764
10.7 g (0.1 mol) of n-pentyl chloride was dripped into a mixture of 2.5 g (0.1 mol) of magnesium and 300 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 300 ml THF solution of 45 g (0.1 mol) of 4-(trans-4-(2-(4-chloro-4-silacyclohexyl)ethyl)cyclohexyl)-3'-fluoro-4'-chlorobiphenyl to obtain 4-(trans-4-(2-(trans-4-n-pentyl-4-silacyclohexyl)ethyl)cyclohexyl)-3'-fluoro-4'-chlorobiphenyl. The silacyclohexane rings of the product were a mixture of trans isomers and cis isomers. They were separated by means of chromatography to obtain 31.3 g (yield 69.9%) of the trans isomer.

reactant | n-pentyl chloride | 0.1 mol, 10.7 g | C(CCCC)Cl | C5H11Cl
reactant | magnesium | 0.1 mol, 2.5 g | [Mg] | Mg
reactant | 4-(trans-4-(2-(4-chloro-4-silacyclohexyl)ethyl)cyclohexyl)-3'-fluoro-4'-chlorobiphenyl | 0.1 mol, 45 g | Cl[SiH]1CCC(CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)Cl)F | C25H31Cl2FSi
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-(trans-4-(2-(trans-4-n-pentyl-4-silacyclohexyl)ethyl)cyclohexyl)-3'-fluoro-4'-chlorobiphenyl | yield 69.9% | C(CCCC)[Si@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)Cl)F | C30H42ClFSi
